US09278950B2
Step 1. tert-Butyl [(3S)-1-(2-chloro-5-nitropyridin-4-yl)piperidin-3-yl]carbamate
A solution of 2,4-dichloro-5-nitropyridine (from AstaTech, 0.500 g, 2.59 mmol), tert-butyl (3S)-piperidin-3-ylcarbamate (0.52 g, 2.6 mmol) and triethylamine (1.1 mL, 7.9 mmol) in isopropyl alcohol (10 mL) was heated at 65° C. for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was re-dissolved in EtOAc (40 mL) and washed with saturated aq. NaHCO3 and water (3×3 mL). The combined aqueous phases were extracted with EtOAc (3 mL). The combined organic layers were washed with brine (3 mL), then dried over Na2SO4, filtered and concentrated under reduced pressure to afford the sub-title compound (0.99 g), which was used in the subsequent reaction without further purification. LCMS (ESI) calc. for C15H22ClN4O4[M+H]+: m/z=357.1. found 357.0.

reactant | 2,4-dichloro-5-nitropyridine | 2.59 mmol, 0.500 g | ClC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2Cl2N2O2
reactant | tert-butyl (3S)-piperidin-3-ylcarbamate | 2.6 mmol, 0.52 g | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 7.9 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
product | tert-Butyl [(3S)-1-(2-chloro-5-nitropyridin-4-yl)piperidin-3-yl]carbamate | 0.99 g | ClC1=NC=C(C(=C1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C15H21ClN4O4
